US07338974B2
Step L (1): NMM (9.8 mL, 89.1 mmol) was added to a mixture of methyl 2-aminoacetate hydrochloride (3.95 g, 31.4 mmol), (2S)-2-(benzyloxycarbonyl-amino)-2-sec-butylpent-4-enoic acid (8.0 g, 26.2 mmol) [prepared as described in WO 2004/013098] HATU (12 g, 31.4 mmol in DCM (300 mL) at room temperature. The mixture was stirred for 16 h. Poured the reaction mixture into 150 mL H2O. Extracted with DCM (3×250 mL). Washed combined organic extracts with brine, dried with Na2SO4, filtered and concentrated in vacuo. The residue was purified by silica gel chromatography to give methyl 2-((2S)-2-(benzyloxycarbonylamino)-2-sec-butylpent-4-enamido)acetate 9.8 g (99% yield) as a yellow-oily residue: ESI (M+H)+=377.43. 1H NMR (300 MHz, CDCl3) δ ppm 0.93-1.08 (m, 6H) 1.49-1.56 (m, 3H) 2.74-2.89 (m, 2H) 3.68 (s, 3H) 4.10-3.96 (m, 2H) 5.00-5.22 (m, 4H) 5.85-5.94 (m, 1H) 7.33-7.40 (m, 5H).

reactant | NMM | 89.1 mmol, 9.8 mL | CN1CCOCC1 | C5H11NO
reactant | methyl 2-aminoacetate hydrochloride | 31.4 mmol, 3.95 g | Cl.NCC(=O)OC
reactant | (2S)-2-(benzyloxycarbonyl-amino)-2-sec-butylpent-4-enoic acid | 26.2 mmol, 8.0 g | C(C1=CC=CC=C1)OC(=O)N[C@@](C(=O)O)(CC=C)C(C)CC | C17H23NO4
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 150 mL | O | H2O
product | methyl 2-((2S)-2-(benzyloxycarbonylamino)-2-sec-butylpent-4-enamido)acetate | 9.8 g, 99% yield | C(C1=CC=CC=C1)OC(=O)N[C@@](C(=O)NCC(=O)OC)(CC=C)C(C)CC | C20H28N2O5
